### ISSUE TITLE
deriving DecidableEq timeout (stuck in loop?) for nested inductive with multiple Prop fields

### ISSUE THREAD

**Issue by m4lvin** [leanprover/lean4#9971]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly

### Description

The following code yields `(deterministic) timeout at `whnf`, maximum number of heartbeats (20000) has been reached` at the `deriving DecidableEq` line, even after increasing the heartbeats amount.

``` lean
abbrev Sequent : Type := List Nat
abbrev History : Type := List Sequent
def rep (H : History) (N : Sequent) : Prop := N ∈ H
def Sequent.basic (N : Sequent) := N = [1,2,3]
def LocalTableau (X : Sequent) : Type := Subtype (· = X.sum)
def endNodesOf {X} : LocalTableau X → List Sequent := fun _ => [X,X]

inductive Tableau : History → Sequent → Type
  | loc {Hist X} (nrep : ¬ rep Hist X) (nbas : ¬ X.basic) (lt : LocalTableau X)
            (next : ∀ Y ∈ endNodesOf lt, Tableau (X :: Hist) Y) : Tableau Hist X

-- In Lean 4.21.0 already 2000 beats was enough, but in 4.22.0 even 2000000 does not suffice.
set_option maxHeartbeats 20000 in
inductive PathIn : ∀ {Hist X}, Tableau Hist X → Type
| nil : PathIn _
| loc {nrep nbas lt next Y} (Y_in : Y ∈ endNodesOf lt) (tail : PathIn (next Y Y_in))
    : PathIn (Tableau.loc nrep nbas lt next)
deriving DecidableEq
```

### Context

**Zulip discussion [here](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/deriving.20DecidableEq.20timeout.204.2E22.20regresssion.3F)**.

The above is a minimization from my [pdl project](https://github.com/m4lvin/lean4-pdl) that I am trying to upgrade. Also if instead of deriving the instance I [write it by hand](https://github.com/m4lvin/lean4-pdl/commit/d3df48725af9ff1d3ef9f59e485b61edb09ff4bb) the result was a [timeout](https://github.com/m4lvin/lean4-pdl/actions/runs/16520202103/job/46720087577#step:5:226). NOTE: see addition below.

Curiously, the instance is derived quickly when the `nbas` field is removed. Or when it is merged using a conjunction with the other `Prop` field. (See also Zulip discussion.)

### Steps to Reproduce

1. Load the above code in an otherwise empty Lean project.

**Expected behavior:** The `DecidableEq` instance should be derived as quickly as before.

**Actual behavior:** Timeout / running out of heartbeats.

### Versions

affected:
- 4.24.0-nightly-2025-08-18
- 4.23.0-rc2

not affected:
- 4.20
- 4.21

### Addition: manually written instance still times out

The following works in `4.20.1` but not on `4.24.0-nightly-2025-08-19`.

``` lean
abbrev Sequent : Type := List Nat
abbrev History : Type := List Sequent
def rep (H : History) (N : Sequent) : Prop := N ∈ H
def Sequent.basic (N : Sequent) := N = [1,2,3]
def LocalTableau (X : Sequent) : Type := Subtype (· = X.sum)
def endNodesOf {X} : LocalTableau X → List Sequent := fun _ => [X,X]

inductive Tableau : History → Sequent → Type
  | loc {Hist X} (nrep : ¬ rep Hist X) (nbas : ¬ X.basic) (lt : LocalTableau X)
            (next : ∀ Y ∈ endNodesOf lt, Tableau (X :: Hist) Y) : Tableau Hist X

inductive PathIn : ∀ {Hist X}, Tableau Hist X → Type
| nil : PathIn _
| loc {nrep nbas lt next Y} (Y_in : Y ∈ endNodesOf lt) (tail : PathIn (next Y Y_in))
    : PathIn (Tableau.loc nrep nbas lt next)

def Tableau.size {Hist X} : Tableau Hist X → Nat
  | .loc _ _ lt next => 1 + ((endNodesOf lt).attach.map (fun ⟨Y, Y_in⟩ => (next Y Y_in).size)).sum

theorem my_Nat_single_le_sum {l : List Nat} (hl₁ : ∀ x ∈ l, 0 ≤ x) (x : Nat) : x ∈ l → x ≤ l.sum := by
  induction l <;> simp_all
  rintro (x_def|x_in)
  · subst x_def; omega
  · case inr IH => specialize IH x_in; omega

set_option maxHeartbeats 20000 in
instance instDecEqPathIn {Hist X} {tab : Tableau Hist X} : DecidableEq (PathIn tab) := by
  intro p q
  cases tab
  · cases p <;> cases q <;> simp_all only [PathIn.loc.injEq, reduceCtorEq]
    · exact instDecidableTrue
    · exact instDecidableFalse
    · exact instDecidableFalse
    case loc.loc.loc nbas0 lt nrep0 next Y1 nbas1 nrep1 Y1_in tail1 Y2 nbas2 nrep2 Y2_in tail2 =>
      by_cases h : Y1 = Y2
      · have _forTermination : (next Y1 Y1_in).size < (Tableau.loc nrep0 nbas0 lt next).size := by
          simp_all [Tableau.size]
          rw [@Nat.lt_one_add_iff]
          apply my_Nat_single_le_sum <;>
            simp only [List.mem_map, List.mem_attach, true_and, Subtype.exists, Nat.zero_le, implies_true]
          try refine ⟨Y1, Y1_in, rfl⟩
        have := instDecEqPathIn tail1 (h ▸ tail2)
        simp [h]
        subst h
        rw [heq_eq_eq]
        exact this
      · simp [h]; exact instDecidableFalse
termination_by
  tab.size
decreasing_by
  subst_eqs
  exact _forTermination
```

**Comment by nomeata** [comment]
Thanks for the report. If a hand written instance also fails, can you include it in the bug report? That's an easier starting point for debugging.

**Comment by zwarich** [comment]
Based on the debugging in the Zulip thread, I should take a look at this.

**Comment by m4lvin** [comment]
Thanks for looking into this!

> Thanks for the report. If a hand written instance also fails, can you include it in the bug report? That's an easier starting point for debugging.

I have just added a manually written instance in the description above. It is a bit ugly and needs an extra lemma for termination, but I did manage to make it Mathlib-free. Hope this helps.

**Comment by zwarich** [comment]
I found the difference here with the old compiler, which is probably just best expressed with the diff implementing the old compiler's behavior:
```
diff --git a/src/Lean/Compiler/LCNF/ToLCNF.lean b/src/Lean/Compiler/LCNF/ToLCNF.lean
index 046f245b89..ffb7666ce4 100644
--- a/src/Lean/Compiler/LCNF/ToLCNF.lean
+++ b/src/Lean/Compiler/LCNF/ToLCNF.lean
@@ -677,7 +677,10 @@ where
         if lhsCtorVal.name == rhsCtorVal.name then
           etaIfUnderApplied e (arity+1) do
             let major := args[arity]!
-            let major ← expandNoConfusionMajor major lhsCtorVal.numFields
+            let numNonPropFields ← liftMetaM <| Meta.forallTelescope lhsCtorVal.type fun params _ =>
+              params[lhsCtorVal.numParams...*].foldlM (init := 0) fun n param => do
+                return if ← Meta.isProp (← param.fvarId!.getType) then n + 1 else n
+            let major ← expandNoConfusionMajor major numNonPropFields
             let major := mkAppN major args[(arity+1)...*]
             visit major
         else
```
The [equivalent loop in the old compiler](https://github.com/leanprover/lean4/blob/ba2cbbf09d4978f416e0ebd1fceeebc2c4138c05/src/library/compiler/lcnf.cpp#L348) uses the number of prop fields, not the total number of fields. This does indeed fix this example, but it causes a segfault on `tests/lean/run/interp.lean`, `tests/lean/run/interp2.lean`, and `tests/lean/run/hlistOverload.lean` I'll have to investigate to see what's going on.

**Comment by m4lvin** [comment]
I seems this fix is not included in v4.23.0, but should be included in v4.24.0-rc1, correct?

**Comment by nomeata** [comment]
Yes! You can see the list of tags including a commit on the commit page:
https://github.com/leanprover/lean4/commit/dc5766d27a27be935a1efe348ffe7a447edce574

**Comment by m4lvin** [comment]
Thanks for teaching me :-) I saw that one but was not sure if it lists all the tags or just one.
